US04188341
12.9 g (0.23 mole) of freshly distilled acrolein is added dropwise at room temperature to a solution of 27.8 g (0.2 mole) of N-(3-pent-2-enyl)-pyrrolidine in 50 ml of absolute benzene, with the temperature rising to a maximum of 50° C. After completion of the addition, the mixture is stirred for 2 hours at room temperature. It is subsequently boiled for 15 hours at about 110° C. bath temperature in a water-separator. The oil obtained after evaporating off the solvent is heated for 18 hours with 100 ml of abs. dioxane, 10.0 g of ammonia, 50.0 g of propylene and 5.0 g of palladium on charcoal (5%) at 120°-130° C. under a pressure of 47 bars (nitrogen). After the addition of 100 ml of ether, the catalyst is filtered off and washed three times with ether. The oil obtained after removal of the solvent by evaporation is distilled in vacuo. There is obtained 4.5 g (20% of theory) of 2,6-dimethylaniline, b.p. 103° C./ 18 Torr, and as byproducts 1.9 g (8% of theory) of 2,6-dimethyl-cyclohex-2-en-1-one, b.p. 62°-64° C./ 17 Torr, and 2.4 g (10% of theory) of 2,6-dimethyl-cyclohexanone.

reactant | acrolein | C(=O)C=C | C3H4O
reactant | N-(3-pent-2-enyl)-pyrrolidine | 0.2 mole, 27.8 g | CC=C(CC)N1CCCC1 | C9H17N
reactant | water | O | H2O
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2,6-dimethylaniline | 4.5 g, 20% | CC1=C(N)C(=CC=C1)C | C8H11N
